US08207180B2
2-Phenyl-1H-pyrrolo[2,3-f]isoquinoline-3-carboxylic acid amide (G3)
To a suspension of 2-phenyl-1H-pyrrolo[2,3-f]isoquinoline-3-carboxylic acid G2 (0.25 mmol) in THF (3 mL), DIEA (0.75 mmol) was added. The mixture was cooled to 0° C., EDCI hydrochloride (0.38 mmol) and HOBT.NH3 (0.38 mmol) were added and stirring at rt was maintained overnight. Ethylacetate and water were added, the layers were separated, the aqueous layer was extracted with ethylacetate and the combined organic layers were washed with water and with 1N NaOH. They were then dried (Na2SO4), filtered and evaporated. Treatment with a small amount of methanol caused precipitation of the product, which was filtered affording the title compound. The amide was suspended in methanol and treated with 4M HCl in dioxane until pH was 1. Solvent was removed, the residue was treated with diethylether and the resulting solid was filtered, washed with diethylether and dried, affording the hydrochloric salt of the title compound (43% yield). ESI (+) MS: m/z 288 (MH+). 1H NMR: 7.36 (bd, J=39.63, 2H), 7.50-7.55 (m, 1H), 7.56-7.62 (m, 2H), 7.82-7.87 (m, 2H), 7.96 (d, J=8.78, 1H), 8.24 (d, J=8.78, 1H), 8.69 (d, J=6.34, 1H), 8.77 (d, J=6.34, 1H), 9.59 (s, 1H), 13.07 (s, 1H).

reactant | 2-phenyl-1H-pyrrolo[2,3-f]isoquinoline-3-carboxylic acid | C1(=CC=CC=C1)C1=C(C=2C(=C3C=CN=CC3=CC2)N1)C(=O)O | C18H12N2O2
reactant | DIEA | 0.75 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI hydrochloride | 0.38 mmol | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH3 | 0.38 mmol | N | H3N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | Ethylacetate | C(C)OC(C)=O | C4H8O2
product | 2-Phenyl-1H-pyrrolo[2,3-f]isoquinoline-3-carboxylic acid amide | C1(=CC=CC=C1)C1=C(C=2C(=C3C=CN=CC3=CC2)N1)C(=O)N | C18H13N3O
